* Shot noise test with B source, diode
* voltage on device (diode, forward)
Vdev out 0 DC 0 PULSE(0.4 0.45 10u)
* diode, forward direction, to be modeled with noise
D1 mess 0 DMOD
.model DMOD D IS=1e-14 N=1 
X1 0 mess out ishot
* device between 1 and 2
* new output terminals of device including noise: 1 and 3
.subckt ishot 1 2 3
* white noise source with rms 1V
VNG 0 11 DC 0 TRNOISE(1 1n 0 0)
*measure the current i(v1)
V1 2 3 DC 0
* calculate the shot noise
* sqrt(2*current*q*bandwidth)
BI 1 3 I=sqrt(2*abs(i(v1))*1.6e-19*1e7)*v(11)
.ends ishot
* 20000 sample points
.tran 1n 20u
.control
run
plot (-1)*i(vdev)
meas tran vdev_rms avg i(vdev) from=0u to=9.9u
meas tran vdev_rms avg i(vdev) from=10.1u to=20u
.endc
.end
